US06627629B2
Part A: Preparation of (3R,4S)-3-amino-4-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-piperidine-1-carboxylic acid t-butyl ester
In a dry flask (3R,4R)-3-[3-(3-acetyl-phenyl)-ureido]-4-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester (1.19 g, 2.84 mmol) was dissolved in borane (100 mL of a 1M solution in tetrahydrofuran, 100 mmol). The reaction was stirred 19 hours. The reaction mixture was concentrated in vacuo and redissolved in 800 mL of ethyl acetate. The solution was poured into hydrochloric acid (140 mL of a 1M aqueous solution) and stirred vigorously for 16 hours. The reaction mixture was neutralized with saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried with magnesium sulfate, filtered and concentrated in vacuo. The mixture was purified by flash chromatography using 20-0% hexane/ethyl acetate to give a light yellow solid (0.259 g, 22%). 1H NMR (300 MHz, CD3OD), δ: 7.18 (m, 2H), 7.04 (m, 2H), 4.37 (m, 2H), 4.19 (m, 2H), 3.47 (m, 1H), 3.20 (m, 1H), 2.89 (m, 1H), 2.68 (m, 2H), 2.52 (m, 4H), 1.88 (m, 2H), 1.75 (m, 2H), 1.55 (m, 2H), 1.45 (m, 2H), 1.44 (s, 9H). MS (ESI), m+/z: (M+H)+=406.

reactant | (3R,4R)-3-[3-(3-acetyl-phenyl)-ureido]-4-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester | 2.84 mmol, 1.19 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F)NC(=O)NC1=CC(=CC=C1)C(C)=O | C32H41FN4O5
solvent | borane | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (3R,4S)-3-amino-4-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-piperidine-1-carboxylic acid t-butyl ester | 0.259 g, 22% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)CN1C[C@@H](CCC1)CC1=CC=C(C=C1)F)N | C23H36FN3O2
